US04018790
One mole (152 g.) of 3,4-diaminobenzoic acid was stirred with 2 liters of ethanol in a Morton flask. Hydrogen chloride gas was passed through the stirred suspension for about 2 hours. As the gas was absorbed, the slurry became gel-like in character. Ethanol (500 ml.) was added to the reaction mixture to disperse the gel. The reaction mixture was refluxed 24 hours. The mixture was filtered and the filtrate was evaporated to dryness in vacuo. The filter cake and the filtrate residue were dissolved in 9 liters of water. The aqueous solution was made basic by the addition of solid sodium carbonate. The product precipitated from the basic solution. The material was filtered and dried to yield 130 grams of ethyl 3,4-diaminobenzoate.

reactant | 3,4-diaminobenzoic acid | One mole, 152 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | Hydrogen chloride | Cl | ClH
reactant | ethanol | 2 liters | C(C)O | C2H6O
product | ethyl 3,4-diaminobenzoate | 130 grams | NC=1C=C(C(=O)OCC)C=CC1N | C9H12N2O2
